US03966956
b. [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-acetic acid
25.4 g (0.050 mol) of [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate were dissolved in 400 ml of glacial acetic acid and hydrogenated on 2.0 g of palladium carbon at room temperature. After the absorption of hydrogen had finished (1 hour), the catalyst was filtered off, the filtrate was concentrated by evaporation under vacuum and the compound was caused to crystallise by adding petroleum ether. The compound melted at 149.5°-150.5°C (determined on the micro-Kofler bench); the yield was 19.4 g which corresponds to 93% of the theoretical yield.

reactant | [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate | 0.050 mol, 25.4 g | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H24ClNO6
reactant | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 2.0 g | [C].[Pd]
product | [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-acetic acid | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)O)C)C=C1 | C21H18ClNO6
